Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Klonopin / cyclobenzaprine / 
fluoxetine / trazodone / Neurontin / phenazopyridine
 
Attending: ___
 
Chief Complaint:
Vomiting blood, dark stool
 
Major Surgical or Invasive Procedure:
___ EGD

 
History of Present Illness:
This is a ___ year old male with history of ___ esophagus 
who recently had an EGD with cryotherapy (___). He has been 
in his usual state of health until yesterday when he began 
having some upper abdominal discomfort, which was followed by 
bright red emesis overnight ___ night). On ___ he 
woke up and went to work but began feeling lightheaded; when he 
came home he had an episode of dark tarry stool (one time). His 
wife called his gastroenterologist who recommended evaluation in 
the hospital for possible endoscopy. He has had no further 
vomiting or dark stool and overall feels well. 

Currently he reports no complaints - no nausea, vomiting, 
diarrhea, abdominal pain, SOB, CP, or any other complaints. Rest 
of ROS negative unless stated. 

 
Past Medical History:
___ esophagus with low grade dysplasia 
Basal cell carcinoma, R cheek ___
Squamous cell carcinoma, R forearm ___
Depression
Anxiety
Allergic rhinitis 

PSH
Mohs surgery
Tonsillectomy
 
Social History:
___
Family History:
Mother - hypertension
Sister - stroke
2 of 3 sisters with breast cancer
Brother - hypertension, colon cancer 
Father - MI, emphysema
 
Physical Exam:
Admission Exam
Vitals:
T 98.1, BP 165/84, RR 18, HR 79, O2 96% RA
Gen - no distress, resting in bed comfortably and appears well
HEENT - nc/at, perrla, moist mucous membranes
Neck - supple, no LAD, no JVD
___ - rrr, s1/1, no m/r/g
Lungs - cta b/l, no w/r/r
Abd - soft nt nd +BS, no rebound/guarding
Ext - no c/c/e
Skin - warm and dry, no rash
Neuro - motor ___ all ext
Psych - calm and cooperative

Discharge Day Exam
Vitals: Afebrile, SBP 137-165, HR 68-84, respirations and oxygen
saturation normal
I/Os: No melena noted
Lines/tubes: PIV
Older man lying in bed, alert, cooperative, NAD.  Anicteric, 
MMM,
PERRL.  Equal chest rise, CTAB, no WOB or cough.  Heart regular,
no murmurs.  NABS, abdomen soft, NT ND.  Extremities warm, no
pitting edema.  No obvious focal neurological signs, gait 
normal,
oriented x 3.
 
Pertinent Results:
Admission Labs
___ 07:57PM   GLUCOSE-80 UREA N-39* CREAT-0.9 SODIUM-137 
POTASSIUM-4.3 CHLORIDE-101 TOTAL CO2-27 ANION GAP-13
___ 07:57PM   WBC-9.9 RBC-3.90* HGB-11.8* HCT-35.6* MCV-91 
MCH-30.3 MCHC-33.1 RDW-14.7 RDWSD-49.0*

Microbiology
___ URINE CULTURE-FINAL

Other
___ EGD
Impression: •A single non-bleeding ulcer was found in the lower 
third of the esophagus at the site of the previous cryotherapy.
•There was no stigmata of recent bleeding at the ulcer.
•Normal mucosa in the stomach
•Normal mucosa in the duodenum
•Small hiatal hernia
•Otherwise normal EGD to third part of the duodenum

Recommendations: •Clear liquid diet when awake, then advance 
diet as tolerated.
•Continue proton pump inhibitor medication twice a day.
•If any chest or abdominal pain, fevers, bleeding, difficulty 
swallowing, nausea, vomiting or any other concerning post 
procedure symptom, please call the advanced endoscopy fellow on 
call ___ ___.
•Carafate 100mg/mL oral suspension 10 ml by mouth every 8 hours 
as 2 hours before or 1 hour after meals/other medications
•Follow-up with Dr. ___ as previously scheduled.

Discharge Labs
___ 06:25AM BLOOD WBC-7.9 RBC-3.82* Hgb-11.5* Hct-34.9* 
MCV-91 MCH-30.1 MCHC-33.0 RDW-14.9 RDWSD-49.3* Plt ___
___ 07:57PM URINE Color-Straw Appear-Clear Sp ___
___ 07:57PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
 
Brief Hospital Course:
___ man w/PMHx of ___ esophagus with recent EGD with 
cryotherapy (___) now presents to ___ with one episode of 
hematemesis and one episode of dark tarry stool.

Mr. ___ is doing well on the day of discharge.  He 
tolerated a regular diet without difficulty today, and denies 
abdominal pain, nausea, vomiting, recent stools.  He feels well 
and would like to go home.  We review his medications, and
follow-up plan.  His wife come pick him up.

#Gastric ulcer S/P recent cryotherapy complicated by hematemesis 
and melena, and mild acute blood loss anemia
-see EGD results above
-had no bleeding in the hospital, Hb stable
-will return to home dexlansoprazole BID on discharge
-Carafate 8 hours as 2 hours before or 1 hour after meals/other 
medications --discussed with patient, in particular the 
importance of separating this medication from his PPI
-Gastroenterology follow-up will be necessary --patient will 
arrange this, as none is currently set up, he has Dr. ___ 
___ number
-___ intervention needed for mild anemia at this time, should 
follow-up as an outpatient

#Anxiety, depression
-Continue home venlafaxine
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dexilant (dexlansoprazole) 60 mg oral BID 
2. Venlafaxine XR 75 mg PO DAILY 

 
Discharge Medications:
1.  Sucralfate 1 gm PO TID W/MEALS 
2 hours before or 1 hour after meals/other medications 
RX *sucralfate 1 gram/10 mL 10mL suspension(s) by mouth every 
eight (8) hours Refills:*0 
2.  Dexilant (dexlansoprazole) 60 mg oral BID  
3.  Venlafaxine XR 75 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Hematemesis and melena thought related to recent gastric ulcer 
treated with cryotherapy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with blood vomit and dark stools (which can 
indicate blood in the stools).  This was concerning for possible 
bleeding from your gastric ulcer that had been recently treated 
with cryotherapy.  You underwent an endoscopy which showed no 
bleeding.  After the procedure you did well.  You blood counts 
remained stable, and you had no more vomiting or concerning 
symptoms.  You were started on one new medication and should 
follow-up with Gastroenterology as an outpatient.
 
Followup Instructions:
___